US08383644B2
(S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester (0.37 g) was dissolved in 2 mL dry THF and triphenylphosphine (0.29 g) and (R)-(+)-1-phenyl-1-propanol (0.15 g) were added. The mixture was stirred at 0° C. for 10 min, then DIAD 933 μL (0.22 g, 1.1 mmol) was added over 2 minutes. The reaction stirred at room temperature for 5 hours, then was evaporated. The residue was purified by silica gel flash chromatography (9:1 to 7:3 hexanes/EtOAc) to give (S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester (0.42 g). This material was dissolved in DMF (0.7 mL), and then mercapto acetic acid (0.15 g) and DBU (0.48 g) were added and stirred at room temperature for 2 hours. The reaction was quenched by addition of NaHCO3 solution (4 mL) and product was extracted with ether. The ether layer was washed with water and brine, and then dried (Na2SO4), filtered, and evaporated. The residue was purified by silica gel column (5% EtOAc in hexanes to 15% EtOAc in hexanes) to get pure (S)-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester (0.2 g). LCMS (m/z): 607.

reactant | (S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester | 0.37 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H26Cl2N2O9S
reactant | triphenylphosphine | 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-(+)-1-phenyl-1-propanol | 0.15 g | C1(=CC=CC=C1)[C@@H](CC)O | C9H12O
reactant | DIAD | 1.1 mmol, 933 μL, 0.22 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester | 0.42 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N([C@@H](CC)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C40H36Cl2N2O9S
